Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
endoleak
 
Major Surgical or Invasive Procedure:
Relining of prior endograft ___

 
Past Medical History:
PMH: appendectomy, hemorrhoid, and lipoma  
PSH: EVAR with attempts to coil embolization  

 
Social History:
___
Family History:
n/c
 
Physical Exam:
Physical Exam:
On physical exam, he is a well-developed male, in no acute
distress.  Carotids are 2+ without bruit. Lungs are clear. Heart
is regular rate and rhythm. Abdomen is benign. Neck is supple.
Thyroid is without masses. Neuro is grossly intact.

 
Pertinent Results:
___ 04:09AM BLOOD 

WBC-5.3 RBC-3.44* Hgb-11.4* Hct-33.5* MCV-98 MCH-33.3* MCHC-34.1 
RDW-14.7 Plt ___

___ 04:09AM BLOOD 

Glucose-126* UreaN-10 Creat-0.8 Na-139 K-4.1 Cl-110* HCO3-22 
AnGap-11
 
Brief Hospital Course:
Mr. ___   was admitted on ___ with endoleak. He 
agreed to have an elective surgery. Pre-operatively, he was 
consented. A CXR, EKG, UA, CBC, Electrolytes, T/S - were 
obtained,  all other preperations were made.
 
It was decided that she would undergo a  re-lining of prior 
endograft for endoleak 
. 
He was prepped, and brought down to the operating room for 
surgery. Intra-operatively, he was closely monitored and 
remained hemodynamically stable. He tolerated the procedure well 
without any difficulty or complication.
 
Post-operatively, he was extubated and transferred to the PACU 
for further stabilization and monitoring. 
 
He was then transferred to the VICU for further recovery. While 
in the VICU he recieved monitered care. When stable he was 
delined. His diet was advanced. A ___ consult was obtained. When 
he was stabalized from the acute setting of post operative care, 
he was transfered to floor status 
 
On the floor, he remained hemodynamically stable with his pain 
controlled. He progressed with physical therapy to improve her 
strength and mobility. He continues to make steady progress 
without any incidents. He was discharged home in stable 
condition.

 
Medications on Admission:
allopurinol ___ mg, amlodipine 10 mg, atenolol 50, clopidogrel 
75, colchicine 0.6 mg BID, pravastatin 20, aspirin  325, calcium 
carbonate 300 mg PRN, docusate sodium 100 mg PRN  

 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. allopurinol ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. pravastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
7. amlodipine 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. colchicine 0.6 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Endoleak

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
This information is designed as a guideline to assist you in a 
speedy recovery from your surgery. Please follow these 
guidelines unless your physician has specifically instructed you 
otherwise. Please call our office nurse if you have any 
questions. Dial 911 if you have any medical emergency.
.
ACTIVITY:
.
There are restrictions on activity. 
.
PLEASE CALL US IMMEDIATELY FOR ANY OF THE FOLLOWING PROBLEMS:
.
Redness in or drainage from your groin wounds(s).
.
New pain, numbness or discoloration of your foot or toes.
.
Watch for signs and symptoms of infection. These are: a fever 
greater than 101 degrees, chills, increased redness, or pus 
draining from the groin puncture site. If you experience any of 
these or bleeding , CALL THE DOCTOR.
.
Exercise:
.
Limit strenuous activity for 6 weeks.
.
Do not drive a car unless cleared by your Surgeon.
.
No heavy lifting greater than 20 pounds for the next ___ days.
.
Try to keep leg elevated when able.
.
BATHING/SHOWERING:
.
You may shower immediately upon coming home. No bathing. A 
dressing covers your amputation site and you should keep this 
dry while showering. Your visiting nurse ___ help you with 
wound care. You do not have any sutures, and your wound will be 
evaluated at your ___ appointment with podiatry.

WOUND CARE:
Your wound requires dressing changes ___ times daily with gauze 
moistened with saline.
.
MEDICATIONS:
.
Unless told otherwise you should resume taking all of the 
medications you were taking before surgery.
.
Please complete the course of outpatient antibiotics as 
prescribed
.
Remember that narcotic pain meds can be constipating and you 
should increase the fluid and bulk foods in your diet. (Check 
with your physician if you have fluid restrictions.) If you feel 
that you are constipated, do not strain at the toilet. You may 
use over the counter Metamucil or Milk of Magnesia. Appetite 
suppression may occur; this will improve with time. Eat small 
balanced meals throughout the day.
CAUTIONS:
.
NO SMOKING! We know you've heard this before, but it really is 
an important step to your recovery. Smoking causes narrowing of 
your blood vessels which in turn decreases circulation. If you 
smoke you will need to stop as soon as possible. Ask your nurse 
or doctor for information on smoking cessation.
.
Avoid pressure to your wound site.
.
No strenuous activity for 6 weeks after surgery.
.
DIET:
.
There are no special restrictions on your diet postoperatively. 
Poor appetite is expected for several weeks and small, frequent 
meals may be preferred.
.
For people with vascular problems we would recommend a 
cholesterol lowering diet: Follow a diet low in total fat and 
low in saturated fat and in cholesterol to improve lipid profile 
in your blood. Additionally, some people see a reduction in 
serum cholesterol by reducing dietary cholesterol. Since a 
reduction in dietary cholesterol is not harmful, we suggest that 
most people reduce dietary fat, saturated fat and cholesterol to 
decrease total cholesterol and LDL (Low Density Lipoprotein-the 
bad cholesterol). Exercise will increase your HDL (High Density 
Lipoprotein-the good cholesterol) and with your doctor's 
permission, is typically recommended. You may be self-referred 
or get a referral from your doctor.
.
If you are overweight, you need to think about starting a weight 
management program. Your health and its improvement depend on 
it. We know that making changes in your lifestyle will not be 
easy, and it will require a whole new set of habits and a new 
attitude. If interested you can may be self-referred or can get 
a referral from your doctor.
.
If you have diabetes and would like additional guidance, you may 
request a referral from your doctor.
___ APPOINTMENT:
.
Be sure to keep your medical appointments. The key to your 
improving health will be to keep a tight reign on any of the 
chronic medical conditions that you have. Things like high blood 
pressure, diabetes, and high cholesterol are major villains to 
the blood vessels. Don't let them go untreated!
.
PLEASE FEEL FREE TO CALL THE OFFICE WITH ANY OTHER CONCERNS OR 
QUESTIONS THAT MIGHT ARISE.

 
Followup Instructions:
___